US07268232B2
4-(3,6-Dihydro-2H-pyridin-1-yl)naphthalene-1-carbonitrile (196MBT2-9)
The title compound (7 mg, 26% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 1,2,3,6-tetrahydropyridine (39 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 1,2,3,6-tetrahydropyridine | 0.468 mmol, 39 mg | N1CCC=CC1 | C5H9N
product | 4-(3,6-Dihydro-2H-pyridin-1-yl)naphthalene-1-carbonitrile | 7 mg, 26% yield | N1(CCC=CC1)C1=CC=C(C2=CC=CC=C12)C#N | C16H14N2
